*** SPICE deck for cell test_Cell{lay} from library Leveille_HW7
*** 
*** ECE 429
*** Valparaiso University
*** 
*** Project settings version ** 3 **
*** 
*** Created on Fri Apr 03, 2020 17:52:08
*** Last revised on Sat Apr 04, 2020 15:46:27
*** Written on Sat Apr 04, 2020 15:46:30 by Electric VLSI Design System, version 9.07
*** Layout tech: mocmos, foundry MOSIS
*** UC SPICE *** , MIN_RESIST 4.0, MIN_CAPAC 0.1FF
***    P-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    N-Active:	areacap=0.9FF/um^2,	edgecap=0.0FF/um,	res=3.0ohms/sq
***    Polysilicon-1:	areacap=0.1467FF/um^2,	edgecap=0.0608FF/um,	res=6.2ohms/sq
***    Polysilicon-2:	areacap=1.0FF/um^2,	edgecap=0.0FF/um,	res=50.0ohms/sq
***    Transistor-Poly:	areacap=0.09FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Poly-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.2ohms/sq
***    Active-Cut:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=2.5ohms/sq
***    Metal-1:	areacap=0.1209FF/um^2,	edgecap=0.1104FF/um,	res=0.078ohms/sq
***    Via1:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq
***    Metal-2:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via2:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.9ohms/sq
***    Metal-3:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via3:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-4:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via4:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-5:	areacap=0.0843FF/um^2,	edgecap=0.0974FF/um,	res=0.078ohms/sq
***    Via5:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=0.8ohms/sq
***    Metal-6:	areacap=0.0423FF/um^2,	edgecap=0.1273FF/um,	res=0.036ohms/sq
***    Hi-Res:	areacap=0.0FF/um^2,	edgecap=0.0FF/um,	res=1.0ohms/sq

*** SUBCIRCUIT Leveille_HW7__inv FROM CELL inv{lay}
.SUBCKT Leveille_HW7__inv gnd vdd x y
M_10 y x#010_poly-left vdd vdd P L=0.6U W=3U AS=5.85P AD=4.613P PS=9.9U PD=8.625U
Mnmos@0 gnd x#1nmos@0_poly-left y gnd N L=0.6U W=1.8U AS=4.613P AD=3.645P PS=8.625U PD=7.65U
** Extracted Parasitic Capacitors ***
C0 y 0 2.081fF
C1 x 0 0.264fF
C2 x#1nmos@0_poly-left 0 0.105fF
C3 x#2pin@5_polysilicon-1 0 0.275fF
** Extracted Parasitic Resistors ***
R0 x#010_poly-left x 9.3
R1 x#1nmos@0_poly-left x#1nmos@0_poly-left##0 7.75
C4 x#1nmos@0_poly-left##0 0 0.105fF
R2 x#1nmos@0_poly-left##0 x#2pin@5_polysilicon-1 7.75
R3 x#2pin@5_polysilicon-1 x#2pin@5_polysilicon-1##0 9.3
C5 x#2pin@5_polysilicon-1##0 0 0.17fF
R4 x#2pin@5_polysilicon-1##0 x#2pin@5_polysilicon-1##1 9.3
C6 x#2pin@5_polysilicon-1##1 0 0.17fF
R5 x#2pin@5_polysilicon-1##1 x#2pin@5_polysilicon-1##2 9.3
C7 x#2pin@5_polysilicon-1##2 0 0.17fF
R6 x#2pin@5_polysilicon-1##2 x#2pin@5_polysilicon-1##3 9.3
C8 x#2pin@5_polysilicon-1##3 0 0.17fF
R7 x#2pin@5_polysilicon-1##3 x#2pin@5_polysilicon-1##4 9.3
C9 x#2pin@5_polysilicon-1##4 0 0.17fF
R8 x#2pin@5_polysilicon-1##4 x#2pin@5_polysilicon-1##5 9.3
C10 x#2pin@5_polysilicon-1##5 0 0.17fF
R9 x#2pin@5_polysilicon-1##5 x#2pin@5_polysilicon-1##6 9.3
C11 x#2pin@5_polysilicon-1##6 0 0.17fF
R10 x#2pin@5_polysilicon-1##6 x#2pin@5_polysilicon-1##7 9.3
C12 x#2pin@5_polysilicon-1##7 0 0.17fF
R11 x#2pin@5_polysilicon-1##7 x 9.3
.ENDS Leveille_HW7__inv
*** WARNING: no power connection for P-transistor wells in cell 'transGate{lay}'
*** WARNING: no ground connection for N-transistor wells in cell 'transGate{lay}'

*** SUBCIRCUIT Leveille_HW7__transGate FROM CELL transGate{lay}
.SUBCKT Leveille_HW7__transGate CLK in inv_CLK out
Mnmos@0 out CLK#0nmos@0_poly-right in gnd N L=0.6U W=1.8U AS=3.96P AD=3.96P PS=8.1U PD=8.1U
Mpmos@0 out inv_CLK#1pmos@0_poly-left in vdd P L=0.6U W=3U AS=3.96P AD=3.96P PS=8.1U PD=8.1U
** Extracted Parasitic Capacitors ***
C0 in 0 3.073fF
C1 out 0 2.964fF
** Extracted Parasitic Resistors ***
R0 inv_CLK#1pmos@0_poly-left inv_CLK 9.3
R1 CLK CLK#0nmos@0_poly-right 9.3
.ENDS Leveille_HW7__transGate

*** SUBCIRCUIT Leveille_HW7__D_latch FROM CELL D_latch{lay}
.SUBCKT Leveille_HW7__D_latch clk D D_out gnd inv_clk inv_D vdd
Xinv@0 gnd vdd inv_D net@68 Leveille_HW7__inv
Xinv@1 gnd vdd D_out inv_D Leveille_HW7__inv
XtransGat@0 clk#0transGat@0_CLK D inv_clk#0transGat@0_inv_CLK D_out Leveille_HW7__transGate
XtransGat@1 inv_clk#1transGat@1_CLK net@68 clk#2transGat@1_inv_CLK D_out Leveille_HW7__transGate
** Extracted Parasitic Capacitors ***
C0 inv_D 0 3.732fF
C1 net@68 0 2.305fF
C2 D_out 0 18.44fF
C3 clk 0 1.299fF
C4 clk#1pin@14_polysilicon-1 0 1.36fF
C5 inv_clk 0 1.437fF
C6 D 0 0.692fF
C7 inv_clk#2pin@29_polysilicon-1 0 1.244fF
C8 clk#0transGat@0_CLK 0 0.553fF
C9 inv_clk#0transGat@0_inv_CLK 0 0.706fF
C10 inv_clk#1transGat@1_CLK 0 0.512fF
C11 clk#2transGat@1_inv_CLK 0 0.615fF
** Extracted Parasitic Resistors ***
R0 clk#0transGat@0_CLK clk#0transGat@0_CLK##0 8.37
C12 clk#0transGat@0_CLK##0 0 0.553fF
R1 clk#0transGat@0_CLK##0 clk#0transGat@0_CLK##1 8.37
C13 clk#0transGat@0_CLK##1 0 0.553fF
R2 clk#0transGat@0_CLK##1 clk#0transGat@0_CLK##2 8.37
C14 clk#0transGat@0_CLK##2 0 0.553fF
R3 clk#0transGat@0_CLK##2 clk 8.37
R4 clk clk##0 9.92
C15 clk##0 0 0.745fF
R5 clk##0 clk##1 9.92
C16 clk##1 0 0.745fF
R6 clk##1 clk##2 9.92
C17 clk##2 0 0.745fF
R7 clk##2 clk##3 9.92
C18 clk##3 0 0.745fF
R8 clk##3 clk##4 9.92
C19 clk##4 0 0.745fF
R9 clk##4 clk##5 9.92
C20 clk##5 0 0.745fF
R10 clk##5 clk##6 9.92
C21 clk##6 0 0.745fF
R11 clk##6 clk##7 9.92
C22 clk##7 0 0.745fF
R12 clk##7 clk##8 9.92
C23 clk##8 0 0.745fF
R13 clk##8 clk#1pin@14_polysilicon-1 9.92
R14 clk#2transGat@1_inv_CLK clk#2transGat@1_inv_CLK##0 8.68
C24 clk#2transGat@1_inv_CLK##0 0 0.615fF
R15 clk#2transGat@1_inv_CLK##0 clk#2transGat@1_inv_CLK##1 8.68
C25 clk#2transGat@1_inv_CLK##1 0 0.615fF
R16 clk#2transGat@1_inv_CLK##1 clk#2transGat@1_inv_CLK##2 8.68
C26 clk#2transGat@1_inv_CLK##2 0 0.615fF
R17 clk#2transGat@1_inv_CLK##2 clk#2transGat@1_inv_CLK##3 8.68
C27 clk#2transGat@1_inv_CLK##3 0 0.615fF
R18 clk#2transGat@1_inv_CLK##3 clk#2transGat@1_inv_CLK##4 8.68
C28 clk#2transGat@1_inv_CLK##4 0 0.615fF
R19 clk#2transGat@1_inv_CLK##4 clk#1pin@14_polysilicon-1 8.68
R20 inv_clk#0transGat@0_inv_CLK inv_clk#0transGat@0_inv_CLK##0 9.61
C29 inv_clk#0transGat@0_inv_CLK##0 0 0.706fF
R21 inv_clk#0transGat@0_inv_CLK##0 inv_clk#0transGat@0_inv_CLK##1 9.61
C30 inv_clk#0transGat@0_inv_CLK##1 0 0.706fF
R22 inv_clk#0transGat@0_inv_CLK##1 inv_clk#0transGat@0_inv_CLK##2 9.61
C31 inv_clk#0transGat@0_inv_CLK##2 0 0.706fF
R23 inv_clk#0transGat@0_inv_CLK##2 inv_clk#0transGat@0_inv_CLK##3 9.61
C32 inv_clk#0transGat@0_inv_CLK##3 0 0.706fF
R24 inv_clk#0transGat@0_inv_CLK##3 inv_clk#0transGat@0_inv_CLK##4 9.61
C33 inv_clk#0transGat@0_inv_CLK##4 0 0.706fF
R25 inv_clk#0transGat@0_inv_CLK##4 inv_clk#0transGat@0_inv_CLK##5 9.61
C34 inv_clk#0transGat@0_inv_CLK##5 0 0.706fF
R26 inv_clk#0transGat@0_inv_CLK##5 inv_clk#0transGat@0_inv_CLK##6 9.61
C35 inv_clk#0transGat@0_inv_CLK##6 0 0.706fF
R27 inv_clk#0transGat@0_inv_CLK##6 inv_clk 9.61
R28 inv_clk#1transGat@1_CLK inv_clk#1transGat@1_CLK##0 8.267
C36 inv_clk#1transGat@1_CLK##0 0 0.512fF
R29 inv_clk#1transGat@1_CLK##0 inv_clk#1transGat@1_CLK##1 8.267
C37 inv_clk#1transGat@1_CLK##1 0 0.512fF
R30 inv_clk#1transGat@1_CLK##1 inv_clk#2pin@29_polysilicon-1 8.267
R31 inv_clk#2pin@29_polysilicon-1 inv_clk#2pin@29_polysilicon-1##0 9.477
C38 inv_clk#2pin@29_polysilicon-1##0 0 0.731fF
R32 inv_clk#2pin@29_polysilicon-1##0 inv_clk#2pin@29_polysilicon-1##1 9.477
C39 inv_clk#2pin@29_polysilicon-1##1 0 0.731fF
R33 inv_clk#2pin@29_polysilicon-1##1 inv_clk#2pin@29_polysilicon-1##2 9.477
C40 inv_clk#2pin@29_polysilicon-1##2 0 0.731fF
R34 inv_clk#2pin@29_polysilicon-1##2 inv_clk#2pin@29_polysilicon-1##3 9.477
C41 inv_clk#2pin@29_polysilicon-1##3 0 0.731fF
R35 inv_clk#2pin@29_polysilicon-1##3 inv_clk#2pin@29_polysilicon-1##4 9.477
C42 inv_clk#2pin@29_polysilicon-1##4 0 0.731fF
R36 inv_clk#2pin@29_polysilicon-1##4 inv_clk#2pin@29_polysilicon-1##5 9.477
C43 inv_clk#2pin@29_polysilicon-1##5 0 0.731fF
R37 inv_clk#2pin@29_polysilicon-1##5 inv_clk#2pin@29_polysilicon-1##6 9.477
C44 inv_clk#2pin@29_polysilicon-1##6 0 0.731fF
R38 inv_clk#2pin@29_polysilicon-1##6 inv_clk#2pin@29_polysilicon-1##7 9.477
C45 inv_clk#2pin@29_polysilicon-1##7 0 0.731fF
R39 inv_clk#2pin@29_polysilicon-1##7 inv_clk#2pin@29_polysilicon-1##8 9.477
C46 inv_clk#2pin@29_polysilicon-1##8 0 0.731fF
R40 inv_clk#2pin@29_polysilicon-1##8 inv_clk#2pin@29_polysilicon-1##9 9.477
C47 inv_clk#2pin@29_polysilicon-1##9 0 0.731fF
R41 inv_clk#2pin@29_polysilicon-1##9 inv_clk#2pin@29_polysilicon-1##10 9.477
C48 inv_clk#2pin@29_polysilicon-1##10 0 0.731fF
R42 inv_clk#2pin@29_polysilicon-1##10 inv_clk#2pin@29_polysilicon-1##11 9.477
C49 inv_clk#2pin@29_polysilicon-1##11 0 0.731fF
R43 inv_clk#2pin@29_polysilicon-1##11 inv_clk#2pin@29_polysilicon-1##12 9.477
C50 inv_clk#2pin@29_polysilicon-1##12 0 0.731fF
R44 inv_clk#2pin@29_polysilicon-1##12 inv_clk 9.477
.ENDS Leveille_HW7__D_latch

*** SUBCIRCUIT Leveille_HW7__D_FF FROM CELL D_FF{lay}
.SUBCKT Leveille_HW7__D_FF /clk /Q clk D gnd Q vdd
XD_latch@0 clk#0D_latch@0_clk net@3 net@6 gnd /clk#0D_latch@0_inv_clk net@24 vdd Leveille_HW7__D_latch
XD_latch@1 /clk#1D_latch@1_clk net@2 D_latch@1_D_out gnd clk#1D_latch@1_inv_clk net@3 vdd Leveille_HW7__D_latch
Xinv@0 gnd vdd D net@2 Leveille_HW7__inv
Xinv@1 gnd vdd net@6 /Q Leveille_HW7__inv
Xinv@2 gnd vdd net@24 Q Leveille_HW7__inv
** Extracted Parasitic Capacitors ***
C0 net@3 0 5.043fF
C1 net@6 0 2.305fF
C2 clk#0D_latch@0_clk 0 0.641fF
C3 net@24 0 5.488fF
C4 /clk#0D_latch@0_inv_clk 0 0.756fF
C5 net@2 0 1.78fF
C6 /clk#1D_latch@1_clk 0 0.641fF
C7 clk#1D_latch@1_inv_clk 0 0.766fF
C8 D 0 1.098fF
C9 /Q 0 1.646fF
C10 Q 0 1.537fF
C11 clk 0 1.407fF
C12 /clk 0 1.396fF
** Extracted Parasitic Resistors ***
R0 clk clk##0 8.857
C13 clk##0 0 0.641fF
R1 clk##0 clk##1 8.857
C14 clk##1 0 0.641fF
R2 clk##1 clk##2 8.857
C15 clk##2 0 0.641fF
R3 clk##2 clk##3 8.857
C16 clk##3 0 0.641fF
R4 clk##3 clk##4 8.857
C17 clk##4 0 0.641fF
R5 clk##4 clk##5 8.857
C18 clk##5 0 0.641fF
R6 clk##5 clk#0D_latch@0_clk 8.857
R7 clk#1D_latch@1_inv_clk clk#1D_latch@1_inv_clk##0 9.695
C19 clk#1D_latch@1_inv_clk##0 0 0.766fF
R8 clk#1D_latch@1_inv_clk##0 clk#1D_latch@1_inv_clk##1 9.695
C20 clk#1D_latch@1_inv_clk##1 0 0.766fF
R9 clk#1D_latch@1_inv_clk##1 clk#1D_latch@1_inv_clk##2 9.695
C21 clk#1D_latch@1_inv_clk##2 0 0.766fF
R10 clk#1D_latch@1_inv_clk##2 clk#1D_latch@1_inv_clk##3 9.695
C22 clk#1D_latch@1_inv_clk##3 0 0.766fF
R11 clk#1D_latch@1_inv_clk##3 clk#1D_latch@1_inv_clk##4 9.695
C23 clk#1D_latch@1_inv_clk##4 0 0.766fF
R12 clk#1D_latch@1_inv_clk##4 clk#1D_latch@1_inv_clk##5 9.695
C24 clk#1D_latch@1_inv_clk##5 0 0.766fF
R13 clk#1D_latch@1_inv_clk##5 clk#1D_latch@1_inv_clk##6 9.695
C25 clk#1D_latch@1_inv_clk##6 0 0.766fF
R14 clk#1D_latch@1_inv_clk##6 clk#1D_latch@1_inv_clk##7 9.695
C26 clk#1D_latch@1_inv_clk##7 0 0.766fF
R15 clk#1D_latch@1_inv_clk##7 clk#1D_latch@1_inv_clk##8 9.695
C27 clk#1D_latch@1_inv_clk##8 0 0.766fF
R16 clk#1D_latch@1_inv_clk##8 clk#1D_latch@1_inv_clk##9 9.695
C28 clk#1D_latch@1_inv_clk##9 0 0.766fF
R17 clk#1D_latch@1_inv_clk##9 clk#1D_latch@1_inv_clk##10 9.695
C29 clk#1D_latch@1_inv_clk##10 0 0.766fF
R18 clk#1D_latch@1_inv_clk##10 clk#1D_latch@1_inv_clk##11 9.695
C30 clk#1D_latch@1_inv_clk##11 0 0.766fF
R19 clk#1D_latch@1_inv_clk##11 clk#1D_latch@1_inv_clk##12 9.695
C31 clk#1D_latch@1_inv_clk##12 0 0.766fF
R20 clk#1D_latch@1_inv_clk##12 clk#1D_latch@1_inv_clk##13 9.695
C32 clk#1D_latch@1_inv_clk##13 0 0.766fF
R21 clk#1D_latch@1_inv_clk##13 clk#1D_latch@1_inv_clk##14 9.695
C33 clk#1D_latch@1_inv_clk##14 0 0.766fF
R22 clk#1D_latch@1_inv_clk##14 clk#1D_latch@1_inv_clk##15 9.695
C34 clk#1D_latch@1_inv_clk##15 0 0.766fF
R23 clk#1D_latch@1_inv_clk##15 clk#1D_latch@1_inv_clk##16 9.695
C35 clk#1D_latch@1_inv_clk##16 0 0.766fF
R24 clk#1D_latch@1_inv_clk##16 clk#1D_latch@1_inv_clk##17 9.695
C36 clk#1D_latch@1_inv_clk##17 0 0.766fF
R25 clk#1D_latch@1_inv_clk##17 clk#1D_latch@1_inv_clk##18 9.695
C37 clk#1D_latch@1_inv_clk##18 0 0.766fF
R26 clk#1D_latch@1_inv_clk##18 clk#1D_latch@1_inv_clk##19 9.695
C38 clk#1D_latch@1_inv_clk##19 0 0.766fF
R27 clk#1D_latch@1_inv_clk##19 clk#1D_latch@1_inv_clk##20 9.695
C39 clk#1D_latch@1_inv_clk##20 0 0.766fF
R28 clk#1D_latch@1_inv_clk##20 clk 9.695
R29 /clk#0D_latch@0_inv_clk /clk#0D_latch@0_inv_clk##0 9.755
C40 /clk#0D_latch@0_inv_clk##0 0 0.756fF
R30 /clk#0D_latch@0_inv_clk##0 /clk#0D_latch@0_inv_clk##1 9.755
C41 /clk#0D_latch@0_inv_clk##1 0 0.756fF
R31 /clk#0D_latch@0_inv_clk##1 /clk#0D_latch@0_inv_clk##2 9.755
C42 /clk#0D_latch@0_inv_clk##2 0 0.756fF
R32 /clk#0D_latch@0_inv_clk##2 /clk#0D_latch@0_inv_clk##3 9.755
C43 /clk#0D_latch@0_inv_clk##3 0 0.756fF
R33 /clk#0D_latch@0_inv_clk##3 /clk#0D_latch@0_inv_clk##4 9.755
C44 /clk#0D_latch@0_inv_clk##4 0 0.756fF
R34 /clk#0D_latch@0_inv_clk##4 /clk#0D_latch@0_inv_clk##5 9.755
C45 /clk#0D_latch@0_inv_clk##5 0 0.756fF
R35 /clk#0D_latch@0_inv_clk##5 /clk#0D_latch@0_inv_clk##6 9.755
C46 /clk#0D_latch@0_inv_clk##6 0 0.756fF
R36 /clk#0D_latch@0_inv_clk##6 /clk#0D_latch@0_inv_clk##7 9.755
C47 /clk#0D_latch@0_inv_clk##7 0 0.756fF
R37 /clk#0D_latch@0_inv_clk##7 /clk#0D_latch@0_inv_clk##8 9.755
C48 /clk#0D_latch@0_inv_clk##8 0 0.756fF
R38 /clk#0D_latch@0_inv_clk##8 /clk#0D_latch@0_inv_clk##9 9.755
C49 /clk#0D_latch@0_inv_clk##9 0 0.756fF
R39 /clk#0D_latch@0_inv_clk##9 /clk#0D_latch@0_inv_clk##10 9.755
C50 /clk#0D_latch@0_inv_clk##10 0 0.756fF
R40 /clk#0D_latch@0_inv_clk##10 /clk#0D_latch@0_inv_clk##11 9.755
C51 /clk#0D_latch@0_inv_clk##11 0 0.756fF
R41 /clk#0D_latch@0_inv_clk##11 /clk#0D_latch@0_inv_clk##12 9.755
C52 /clk#0D_latch@0_inv_clk##12 0 0.756fF
R42 /clk#0D_latch@0_inv_clk##12 /clk#0D_latch@0_inv_clk##13 9.755
C53 /clk#0D_latch@0_inv_clk##13 0 0.756fF
R43 /clk#0D_latch@0_inv_clk##13 /clk 9.755
R44 /clk#1D_latch@1_clk /clk#1D_latch@1_clk##0 8.857
C54 /clk#1D_latch@1_clk##0 0 0.641fF
R45 /clk#1D_latch@1_clk##0 /clk#1D_latch@1_clk##1 8.857
C55 /clk#1D_latch@1_clk##1 0 0.641fF
R46 /clk#1D_latch@1_clk##1 /clk#1D_latch@1_clk##2 8.857
C56 /clk#1D_latch@1_clk##2 0 0.641fF
R47 /clk#1D_latch@1_clk##2 /clk#1D_latch@1_clk##3 8.857
C57 /clk#1D_latch@1_clk##3 0 0.641fF
R48 /clk#1D_latch@1_clk##3 /clk#1D_latch@1_clk##4 8.857
C58 /clk#1D_latch@1_clk##4 0 0.641fF
R49 /clk#1D_latch@1_clk##4 /clk#1D_latch@1_clk##5 8.857
C59 /clk#1D_latch@1_clk##5 0 0.641fF
R50 /clk#1D_latch@1_clk##5 /clk 8.857
.ENDS Leveille_HW7__D_FF

*** TOP LEVEL CELL: test_Cell{lay}
XD_FF@0 ckb#2D_FF@0_/clk Qbar ck#2D_FF@0_clk rd gnd Q vdd Leveille_HW7__D_FF
Xinv@0 gnd vdd Q OUT Leveille_HW7__inv
Xinv@1 gnd vdd Q OUT Leveille_HW7__inv
Xinv@2 gnd vdd Q OUT Leveille_HW7__inv
Xinv@4 gnd vdd D net@0 Leveille_HW7__inv
Xinv@5 gnd vdd net@0 rd Leveille_HW7__inv
Xinv@6 gnd vdd CLK#0inv@6_x ckb#5inv@6_y Leveille_HW7__inv
Xinv@7 gnd vdd ckb#3inv@7_x ck Leveille_HW7__inv
Xinv@8 gnd vdd Q OUT Leveille_HW7__inv
Xinv@10 gnd vdd Qbar OUT Leveille_HW7__inv
Xinv@11 gnd vdd Qbar OUT Leveille_HW7__inv
Xinv@12 gnd vdd Qbar OUT Leveille_HW7__inv
Xinv@13 gnd vdd Qbar OUT Leveille_HW7__inv
** Extracted Parasitic Capacitors ***
C0 Qbar 0 12.193fF
C1 ckb#2D_FF@0_/clk 0 0.342fF
C2 rd 0 2.086fF
C3 Q 0 11.754fF
C4 ck#2D_FF@0_clk 0 0.683fF
C5 OUT 0 44.345fF
C6 D 0 0.768fF
C7 net@0 0 2.305fF
C8 CLK#0inv@6_x 0 0.41fF
C9 ckb#5inv@6_y 0 0.512fF
C10 ckb#3inv@7_x 0 0.779fF
C11 ck 0 0.738fF
C12 ckb#1pin@4_polysilicon-1 0 1.043fF
C13 ckb#4pin@5_polysilicon-1 0 1.562fF
C14 ckb 0 1.998fF
C15 ck#1pin@7_polysilicon-1 0 1.421fF
C16 CLK 0 0.41fF
** Extracted Parasitic Resistors ***
R0 ck ck##0 9.92
C17 ck##0 0 0.738fF
R1 ck##0 ck##1 9.92
C18 ck##1 0 0.738fF
R2 ck##1 ck##2 9.92
C19 ck##2 0 0.738fF
R3 ck##2 ck##3 9.92
C20 ck##3 0 0.738fF
R4 ck##3 ck##4 9.92
C21 ck##4 0 0.738fF
R5 ck##4 ck##5 9.92
C22 ck##5 0 0.738fF
R6 ck##5 ck##6 9.92
C23 ck##6 0 0.738fF
R7 ck##6 ck##7 9.92
C24 ck##7 0 0.738fF
R8 ck##7 ck#1pin@7_polysilicon-1 9.92
R9 ckb ckb##0 9.197
C25 ckb##0 0 0.702fF
R10 ckb##0 ckb##1 9.197
C26 ckb##1 0 0.702fF
R11 ckb##1 ckb##2 9.197
C27 ckb##2 0 0.702fF
R12 ckb##2 ckb##3 9.197
C28 ckb##3 0 0.702fF
R13 ckb##3 ckb##4 9.197
C29 ckb##4 0 0.702fF
R14 ckb##4 ckb##5 9.197
C30 ckb##5 0 0.702fF
R15 ckb##5 ckb##6 9.197
C31 ckb##6 0 0.702fF
R16 ckb##6 ckb##7 9.197
C32 ckb##7 0 0.702fF
R17 ckb##7 ckb##8 9.197
C33 ckb##8 0 0.702fF
R18 ckb##8 ckb##9 9.197
C34 ckb##9 0 0.702fF
R19 ckb##9 ckb##10 9.197
C35 ckb##10 0 0.702fF
R20 ckb##10 ckb#1pin@4_polysilicon-1 9.197
R21 ckb#2D_FF@0_/clk ckb#2D_FF@0_/clk##0 6.2
C36 ckb#2D_FF@0_/clk##0 0 0.342fF
R22 ckb#2D_FF@0_/clk##0 ckb#1pin@4_polysilicon-1 6.2
R23 ckb#3inv@7_x ckb#3inv@7_x##0 9.92
C37 ckb#3inv@7_x##0 0 0.779fF
R24 ckb#3inv@7_x##0 ckb#3inv@7_x##1 9.92
C38 ckb#3inv@7_x##1 0 0.779fF
R25 ckb#3inv@7_x##1 ckb#3inv@7_x##2 9.92
C39 ckb#3inv@7_x##2 0 0.779fF
R26 ckb#3inv@7_x##2 ckb#3inv@7_x##3 9.92
C40 ckb#3inv@7_x##3 0 0.779fF
R27 ckb#3inv@7_x##3 ckb#3inv@7_x##4 9.92
C41 ckb#3inv@7_x##4 0 0.779fF
R28 ckb#3inv@7_x##4 ckb#3inv@7_x##5 9.92
C42 ckb#3inv@7_x##5 0 0.779fF
R29 ckb#3inv@7_x##5 ckb#3inv@7_x##6 9.92
C43 ckb#3inv@7_x##6 0 0.779fF
R30 ckb#3inv@7_x##6 ckb#3inv@7_x##7 9.92
C44 ckb#3inv@7_x##7 0 0.779fF
R31 ckb#3inv@7_x##7 ckb#3inv@7_x##8 9.92
C45 ckb#3inv@7_x##8 0 0.779fF
R32 ckb#3inv@7_x##8 ckb#3inv@7_x##9 9.92
C46 ckb#3inv@7_x##9 0 0.779fF
R33 ckb#3inv@7_x##9 ckb#3inv@7_x##10 9.92
C47 ckb#3inv@7_x##10 0 0.779fF
R34 ckb#3inv@7_x##10 ckb#3inv@7_x##11 9.92
C48 ckb#3inv@7_x##11 0 0.779fF
R35 ckb#3inv@7_x##11 ckb#3inv@7_x##12 9.92
C49 ckb#3inv@7_x##12 0 0.779fF
R36 ckb#3inv@7_x##12 ckb#3inv@7_x##13 9.92
C50 ckb#3inv@7_x##13 0 0.779fF
R37 ckb#3inv@7_x##13 ckb#3inv@7_x##14 9.92
C51 ckb#3inv@7_x##14 0 0.779fF
R38 ckb#3inv@7_x##14 ckb#3inv@7_x##15 9.92
C52 ckb#3inv@7_x##15 0 0.779fF
R39 ckb#3inv@7_x##15 ckb#3inv@7_x##16 9.92
C53 ckb#3inv@7_x##16 0 0.779fF
R40 ckb#3inv@7_x##16 ckb#3inv@7_x##17 9.92
C54 ckb#3inv@7_x##17 0 0.779fF
R41 ckb#3inv@7_x##17 ckb#4pin@5_polysilicon-1 9.92
R42 ckb#5inv@6_y ckb#5inv@6_y##0 9.3
C55 ckb#5inv@6_y##0 0 0.512fF
R43 ckb#5inv@6_y##0 ckb 9.3
R44 ckb#4pin@5_polysilicon-1 ckb#4pin@5_polysilicon-1##0 9.828
C56 ckb#4pin@5_polysilicon-1##0 0 0.783fF
R45 ckb#4pin@5_polysilicon-1##0 ckb#4pin@5_polysilicon-1##1 9.828
C57 ckb#4pin@5_polysilicon-1##1 0 0.783fF
R46 ckb#4pin@5_polysilicon-1##1 ckb#4pin@5_polysilicon-1##2 9.828
C58 ckb#4pin@5_polysilicon-1##2 0 0.783fF
R47 ckb#4pin@5_polysilicon-1##2 ckb#4pin@5_polysilicon-1##3 9.828
C59 ckb#4pin@5_polysilicon-1##3 0 0.783fF
R48 ckb#4pin@5_polysilicon-1##3 ckb#4pin@5_polysilicon-1##4 9.828
C60 ckb#4pin@5_polysilicon-1##4 0 0.783fF
R49 ckb#4pin@5_polysilicon-1##4 ckb#4pin@5_polysilicon-1##5 9.828
C61 ckb#4pin@5_polysilicon-1##5 0 0.783fF
R50 ckb#4pin@5_polysilicon-1##5 ckb#4pin@5_polysilicon-1##6 9.828
C62 ckb#4pin@5_polysilicon-1##6 0 0.783fF
R51 ckb#4pin@5_polysilicon-1##6 ckb#4pin@5_polysilicon-1##7 9.828
C63 ckb#4pin@5_polysilicon-1##7 0 0.783fF
R52 ckb#4pin@5_polysilicon-1##7 ckb#4pin@5_polysilicon-1##8 9.828
C64 ckb#4pin@5_polysilicon-1##8 0 0.783fF
R53 ckb#4pin@5_polysilicon-1##8 ckb#4pin@5_polysilicon-1##9 9.828
C65 ckb#4pin@5_polysilicon-1##9 0 0.783fF
R54 ckb#4pin@5_polysilicon-1##9 ckb#4pin@5_polysilicon-1##10 9.828
C66 ckb#4pin@5_polysilicon-1##10 0 0.783fF
R55 ckb#4pin@5_polysilicon-1##10 ckb#4pin@5_polysilicon-1##11 9.828
C67 ckb#4pin@5_polysilicon-1##11 0 0.783fF
R56 ckb#4pin@5_polysilicon-1##11 ckb#4pin@5_polysilicon-1##12 9.828
C68 ckb#4pin@5_polysilicon-1##12 0 0.783fF
R57 ckb#4pin@5_polysilicon-1##12 ckb#4pin@5_polysilicon-1##13 9.828
C69 ckb#4pin@5_polysilicon-1##13 0 0.783fF
R58 ckb#4pin@5_polysilicon-1##13 ckb#4pin@5_polysilicon-1##14 9.828
C70 ckb#4pin@5_polysilicon-1##14 0 0.783fF
R59 ckb#4pin@5_polysilicon-1##14 ckb#4pin@5_polysilicon-1##15 9.828
C71 ckb#4pin@5_polysilicon-1##15 0 0.783fF
R60 ckb#4pin@5_polysilicon-1##15 ckb#4pin@5_polysilicon-1##16 9.828
C72 ckb#4pin@5_polysilicon-1##16 0 0.783fF
R61 ckb#4pin@5_polysilicon-1##16 ckb#4pin@5_polysilicon-1##17 9.828
C73 ckb#4pin@5_polysilicon-1##17 0 0.783fF
R62 ckb#4pin@5_polysilicon-1##17 ckb#4pin@5_polysilicon-1##18 9.828
C74 ckb#4pin@5_polysilicon-1##18 0 0.783fF
R63 ckb#4pin@5_polysilicon-1##18 ckb#4pin@5_polysilicon-1##19 9.828
C75 ckb#4pin@5_polysilicon-1##19 0 0.783fF
R64 ckb#4pin@5_polysilicon-1##19 ckb#4pin@5_polysilicon-1##20 9.828
C76 ckb#4pin@5_polysilicon-1##20 0 0.783fF
R65 ckb#4pin@5_polysilicon-1##20 ckb#4pin@5_polysilicon-1##21 9.828
C77 ckb#4pin@5_polysilicon-1##21 0 0.783fF
R66 ckb#4pin@5_polysilicon-1##21 ckb#4pin@5_polysilicon-1##22 9.828
C78 ckb#4pin@5_polysilicon-1##22 0 0.783fF
R67 ckb#4pin@5_polysilicon-1##22 ckb#4pin@5_polysilicon-1##23 9.828
C79 ckb#4pin@5_polysilicon-1##23 0 0.783fF
R68 ckb#4pin@5_polysilicon-1##23 ckb#4pin@5_polysilicon-1##24 9.828
C80 ckb#4pin@5_polysilicon-1##24 0 0.783fF
R69 ckb#4pin@5_polysilicon-1##24 ckb#4pin@5_polysilicon-1##25 9.828
C81 ckb#4pin@5_polysilicon-1##25 0 0.783fF
R70 ckb#4pin@5_polysilicon-1##25 ckb 9.828
R71 ck#2D_FF@0_clk ck#2D_FF@0_clk##0 9.92
C82 ck#2D_FF@0_clk##0 0 0.683fF
R72 ck#2D_FF@0_clk##0 ck#2D_FF@0_clk##1 9.92
C83 ck#2D_FF@0_clk##1 0 0.683fF
R73 ck#2D_FF@0_clk##1 ck#2D_FF@0_clk##2 9.92
C84 ck#2D_FF@0_clk##2 0 0.683fF
R74 ck#2D_FF@0_clk##2 ck#2D_FF@0_clk##3 9.92
C85 ck#2D_FF@0_clk##3 0 0.683fF
R75 ck#2D_FF@0_clk##3 ck#1pin@7_polysilicon-1 9.92
R76 CLK#0inv@6_x CLK#0inv@6_x##0 7.44
C86 CLK#0inv@6_x##0 0 0.41fF
R77 CLK#0inv@6_x##0 CLK 7.44

* Spice Code nodes in cell cell 'test_Cell{lay}'
VGND GND 0 DC 0
VVDD VDD 0 DC 5
VCLK CLK 0 DC 0 PULSE 0 5 0 10p 10p 3n 6n
VIN D 0 DC 0 PULSE 5 0 200p 10p 10p 6n 11.9n
.include c5.txt
.tran 2000n UIC
.save v(rd) v(ck) v(q) v(qbar) v(D_FF@2:D_latch@0:x) v(D_FF@2:outbar) v(D_FF@2:D_latch@1:x) v(D_FF@2:mid) dialogbox
*.options post
.END
